US04046891
Phosphorus oxychloride (3.8 g., 0.025 mole) is added in one portion to a mixture of phenoxazine (4.6 g., 0.025 mole) and 2-pyrrolidinone (2.1 g., 0.025 mole) in 50 ml. of 1,2-dichloroethane at 25° C. After stirring the reaction mixture for 15 hr., the reaction mixture is quenched in a mixture of 30 ml. of 5N sodium hydroxide and 30 g. of crushed ice. The organic layer is separated, extracted with 100 ml. of 1.5N hydrochloric acid, made basic with sodium hydroxide and extracted with ether. After drying the ethereal extract over magnesium sulfate and concentrating, the residue thus obtained is crystallized from n-heptane to provide 4.2 g. of 10-(1-PYRROLIN-2-YL)PHENOXAZINE free base, m.p. 110°-113° C. The free base taken up in ethanol, acidified with ethanolic hydrogen chloride and diluted with ether provides a 37% yield of 10-(1-PYRROLIN-2-YL)PHENOXAZINE HYDROCHLORIDE as a monohydrate, m.p. 214°-217° C. (corr.).

reactant | Phosphorus oxychloride | 0.025 mole, 3.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phenoxazine | 0.025 mole, 4.6 g | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | 2-pyrrolidinone | 0.025 mole, 2.1 g | N1C(CCC1)=O | C4H7NO
reactant | 10-(1-PYRROLIN-2-YL)PHENOXAZINE | N1=C(CCC1)N1C2=CC=CC=C2OC=2C=CC=CC12 | C16H14N2O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 10-(1-PYRROLIN-2-YL)PHENOXAZINE HYDROCHLORIDE | 37% yield | Cl.N1=C(CCC1)N1C2=CC=CC=C2OC=2C=CC=CC12 | InChI=1S/C16H14N2O.ClH/c1-3-8-14-12(6-1)18(16-10-5-11-17-16)13-7-2-4-9-15(13)19-14;/h1-4,6-9H,5,10-11H2;1H
